US06486141B2
Step 6 methyl 2-(1H-1,2,3-benzotriazol-1-yl)-2-phenylacetate
A mixture of methyl ?-bromophenylacetate (6.9 g) and benzotriazole (11 g) in 50 mL of toluene was heated to reflux for 22 h, cooled and diluted with 400 mL of CHCl3. The mixture was then washed with 100 mL of 10% aqueous NaOH and the organic layer was dried over Na2SO4 and concentrated. After swishing from 1:1 hexane/EtOAc, 5.7 g of the title compound was obtained as a white solid.

reactant | bromophenylacetate | 6.9 g | BrC(C(=O)[O-])C1=CC=CC=C1
reactant | benzotriazole | 11 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-(1H-1,2,3-benzotriazol-1-yl)-2-phenylacetate | 5.7 g | N1(N=NC2=C1C=CC=C2)C(C(=O)OC)C2=CC=CC=C2 | C15H13N3O2
